2115-09-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CVVH
   24 Hour Events:
   A line placed
   3 doses of colchicines for gout of right little finger
 OK per renal.
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-9-25**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 103) bpm
   BP: 90/52(66) {75/45(57) - 118/63(81)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 64 Inch
             Total In:
                                                                  2,482 mL
                                                                    491 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                  1,850 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,834 mL
                                                                 -1,359 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Loud), (Murmur: Systolic, Diastolic), Mechanical
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : at bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, edematous
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3305**]
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   91 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-9-24**]  07:47 PM
                             [**2115-9-25**]  04:03 AM
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
   WBC
   5.7
   5.3
   4.0
   Hct
   35.1
   32.2
   27.1
   Plt
   86
   71
   70
   Cr
   7.2
   5.4
   4.3
   3.2
   Glucose
   86
   85
   91
   Other labs: PT / PTT / INR:25.5/63.2/2.5, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.6 %,
   Mono:7.8 %, Eos:4.2 %, Albumin:3.9 g/dL, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # R- sided heart failure: Unclear etiology. Recent exacerbation with
   significant weight gain.
   - will undergo fluid removal with CVVH
   # Renal failure: Acute on chronic renal failure with approximately 30
   pounds weight gain. FeUrea was 30%, UNa 15 both consistent with
   prerenal picture. Urine eos negative.
   - Will need hemodialysis.
   - Will start with CVVH per renal recs as limited by hypotension
   - follow up renal recs
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol was held to increase BP.
   - f/u liver recs
   .
   # Mechanical MV/TV/AV: INR supratherapeutic currently.
   - Coumadin being held. Will restart in AM
   - argatroban while INR <3.0 (held for cath placment, then restarted)
   .
   # Atrial fibrillation: Holding nadolol given hypotension.
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   .
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. IV access: Peripheral line Order date: [**9-24**] @ 2210 10. Miconazole
   Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210
   2. IV access: Peripheral line Order date: [**9-24**] @ 2210 11. Pantoprazole
   40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. IV access: Dialysis Catheter (Tunneled 2-Lumen) Location: Right,
   Date inserted: [**2115-9-24**] Order date: [**9-25**] @ 0730 12. Potassium Chloride
   10 mEq / 100 mL SW (CRRT Only) Continuous
   Initial Rate: 20 ml/hr
   w/ Sliding Scale
   CRRT sliding scale. For K <3.0, increase rate 50% and call renal
   fellow. For K >4.6, decrease rate 50% and recheck K in [**2-24**] hours. Order
   date: [**9-24**] @ 2210
   4. OK to use line Order date: [**9-24**] @ 2210 13. Prismasate (B32 K2)
   Continuous at 1500 ml/hr
   Infuse Replacement fluid: Prefilter Rate: Postfilter Rate: Replacement
   Solution for CRRT Order date: [**9-24**] @ 2210
   5. 20 gm Calcium Gluconate/ 500 mL D5W Continuous
   Initial Rate: 30 ml/hr
   w/ Sliding Scale
   Monitor ionized calcium. [**Name8 (MD) **] MD [**First Name (Titles) **] [**Last Name (Titles) **] >1.3 or <0.9 Part of CRRT
   protocol. Order date: [**9-24**] @ 2210 14. Prismasate (B32 K2)*
   Continuous at 500 ml/hr
   Dialysate Solution for CRRT Order date: [**9-24**] @ 2210
   6. Argatroban 0.5-2 mcg/kg/min IV DRIP INFUSION
   Start at 1 mcg/kg/min. This corresponds to 70 mcg/minute. Obtain PTT 2
   hours after initiating infusion and every 6 hours thereafter. Titrate
   to aPTT 60-80 seconds as below: if PTT<40: increase by .5 mcg/kg/min if
   PTT 40-59: increase by .25 mcg/kg/min if PTT 60-80: no change if PTT
   80-100: hold for 1 hour and decrase by .5 mcg/kg/min  Order date: [**9-24**]
   @ 2210 15. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   7. Colchicine 0.6 mg PO Q6H Duration: 3 Doses Order date: [**9-25**] @ 1705
   16. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   8. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   17. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @
   2210
   9. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**9-24**] @ 2055
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-24**] 08:07 PM
   Tunneled (Hickman) Line - [**2115-9-24**] 08:08 PM
   Arterial Line - [**2115-9-25**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2115-09-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pt has no complaints this morning. Denies cp, dyspnea,
   gout pain.
   24 Hour Events:
   Net negative 4.8L in 24hrs. BP tolerated well.
   A line placed
   3 doses of colchicine for gout of right 5^th  finger.
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Warfarin 1 mg PO DAILY
   Midodrine 5 mg PO TID
   Pantoprazole 40 mg PO Q12H
   Epoetin Alfa 4000 UNIT SC MWF
   Sevelamer CARBONATE 1600 mg PO TID
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 103) bpm
   BP: 90/52(66) {75/45(57) - 118/63(81)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 64 Inch
             Total In:
                                                                  2,482 mL
                                                                    491 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                  1,850 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,834 mL
                                                                 -1,359 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Loud), (Murmur: Systolic, Diastolic), Mechanical
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : half wa\y up lung
   fields bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, edematous
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3305**]
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   91 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-9-24**]  07:47 PM
                             [**2115-9-25**]  04:03 AM
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
   WBC
   5.7
   5.3
   4.0
   Hct
   35.1
   32.2
   27.1
   Plt
   86
   71
   70
   Cr
   7.2
   5.4
   4.3
   3.2
   Glucose
   86
   85
   91
   Other labs: PT / PTT / INR:25.5/63.2/2.5, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.6 %,
   Mono:7.8 %, Eos:4.2 %, Albumin:3.9 g/dL, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and volume overload.
   .
   # Renal failure: Acute on chronic renal failure likely of prerenal
   etiology with approximately 30 kg excess fluid as per renal.
   - Continue CVVH, negative 400cc/hr as bp tolerates (sbp>80)
   - Start midodrine tid given moderately low sbp
   - Consider HD tomorrow
   .
   # Mechanical MV/TV/AV: INR supratherapeutic currently.
   -Restart coumadin (home dose 1mg po daily)
   -Goal INR on coumadin and argatroban [**2-23**] (both should be continued for
   2 days)
   -Monitor INR
   .
   # Atrial fibrillation: Holding nadolol given hypotension.
   .
   #RV failure: Unclear etiology. Recent exacerbation with significant
   weight gain
   -CVVH
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol was held to increase BP.
   - f/u liver recs (restart coumadin, continue argatroban, continue cvh
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-24**] 08:07 PM
   Tunneled (Hickman) Line - [**2115-9-24**] 08:08 PM
   Arterial Line - [**2115-9-25**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   13:16

2115-09-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CVVH
   24 Hour Events:
   Net negative 4.8L in 24hrs. BP tolerated well.
   A line placed
   3 doses of colchicines for gout of right little finger
 OK per renal.
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-9-25**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 103) bpm
   BP: 90/52(66) {75/45(57) - 118/63(81)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 64 Inch
             Total In:
                                                                  2,482 mL
                                                                    491 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                  1,850 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,834 mL
                                                                 -1,359 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Loud), (Murmur: Systolic, Diastolic), Mechanical
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : at bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, edematous
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3305**]
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   91 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-9-24**]  07:47 PM
                             [**2115-9-25**]  04:03 AM
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
   WBC
   5.7
   5.3
   4.0
   Hct
   35.1
   32.2
   27.1
   Plt
   86
   71
   70
   Cr
   7.2
   5.4
   4.3
   3.2
   Glucose
   86
   85
   91
   Other labs: PT / PTT / INR:25.5/63.2/2.5, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.6 %,
   Mono:7.8 %, Eos:4.2 %, Albumin:3.9 g/dL, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # Renal failure: Acute on chronic renal failure with approximately 30
   pounds weight gain. FeUrea was 30%, UNa 15 both consistent with
   prerenal picture. Urine eos negative.
   - Will need hemodialysis.
   - Will start with CVVH per renal recs as limited by hypotension
   - follow up renal recs
   .
   # Mechanical MV/TV/AV: INR supratherapeutic currently.
   -Restart coumadin (home dose 1mg po daily)
   -Goal INR on coumadin and argatroban [**2-23**] (both should be continued for
   2 days)
   .
   # Atrial fibrillation: Holding nadolol given hypotension.
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol was held to increase BP.
   - f/u liver recs (restart coumadin, continue argatroban, continue cvh
   .
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   .
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. IV access: Peripheral line Order date: [**9-24**] @ 2210 10. Miconazole
   Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210
   2. IV access: Peripheral line Order date: [**9-24**] @ 2210 11. Pantoprazole
   40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. IV access: Dialysis Catheter (Tunneled 2-Lumen) Location: Right,
   Date inserted: [**2115-9-24**] Order date: [**9-25**] @ 0730 12. Potassium Chloride
   10 mEq / 100 mL SW (CRRT Only) Continuous
   Initial Rate: 20 ml/hr
   w/ Sliding Scale
   CRRT sliding scale. For K <3.0, increase rate 50% and call renal
   fellow. For K >4.6, decrease rate 50% and recheck K in [**2-24**] hours. Order
   date: [**9-24**] @ 2210
   4. OK to use line Order date: [**9-24**] @ 2210 13. Prismasate (B32 K2)
   Continuous at 1500 ml/hr
   Infuse Replacement fluid: Prefilter Rate: Postfilter Rate: Replacement
   Solution for CRRT Order date: [**9-24**] @ 2210
   5. 20 gm Calcium Gluconate/ 500 mL D5W Continuous
   Initial Rate: 30 ml/hr
   w/ Sliding Scale
   Monitor ionized calcium. [**Name8 (MD) **] MD [**First Name (Titles) **] [**Last Name (Titles) **] >1.3 or <0.9 Part of CRRT
   protocol. Order date: [**9-24**] @ 2210 14. Prismasate (B32 K2)*
   Continuous at 500 ml/hr
   Dialysate Solution for CRRT Order date: [**9-24**] @ 2210
   6. Argatroban 0.5-2 mcg/kg/min IV DRIP INFUSION
   Start at 1 mcg/kg/min. This corresponds to 70 mcg/minute. Obtain PTT 2
   hours after initiating infusion and every 6 hours thereafter. Titrate
   to aPTT 60-80 seconds as below: if PTT<40: increase by .5 mcg/kg/min if
   PTT 40-59: increase by .25 mcg/kg/min if PTT 60-80: no change if PTT
   80-100: hold for 1 hour and decrase by .5 mcg/kg/min  Order date: [**9-24**]
   @ 2210 15. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   7. Colchicine 0.6 mg PO Q6H Duration: 3 Doses Order date: [**9-25**] @ 1705
   16. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**9-24**] @ 2210
   8. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   17. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @
   2210
   9. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**9-24**] @ 2055
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-24**] 08:07 PM
   Tunneled (Hickman) Line - [**2115-9-24**] 08:08 PM
   Arterial Line - [**2115-9-25**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2115-09-26 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pt has no complaints this morning. Denies cp, dyspnea,
   gout pain.
   24 Hour Events:
   Net negative 4.8L in 24hrs. BP tolerated well.
   A line placed
   3 doses of colchicine for gout of right 5^th  finger.
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Warfarin 1 mg PO DAILY
   Midodrine 5 mg PO TID
   Pantoprazole 40 mg PO Q12H
   Epoetin Alfa 4000 UNIT SC MWF
   Sevelamer CARBONATE 1600 mg PO TID
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-9-26**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 103) bpm
   BP: 90/52(66) {75/45(57) - 118/63(81)} mmHg
   RR: 16 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Height: 64 Inch
             Total In:
                                                                  2,482 mL
                                                                    491 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,942 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  7,316 mL
                                                                  1,850 mL
   Urine:
                                                                    120 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,834 mL
                                                                 -1,359 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.40///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S2: Loud), (Murmur: Systolic, Diastolic), Mechanical
   heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Crackles : half wa\y up lung
   fields bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, edematous
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 3305**]
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   91 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   48 mg/dL
   102 mEq/L
   137 mEq/L
   27.1 %
   4.0 K/uL
        [image002.jpg]
                             [**2115-9-24**]  07:47 PM
                             [**2115-9-25**]  04:03 AM
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
   WBC
   5.7
   5.3
   4.0
   Hct
   35.1
   32.2
   27.1
   Plt
   86
   71
   70
   Cr
   7.2
   5.4
   4.3
   3.2
   Glucose
   86
   85
   91
   Other labs: PT / PTT / INR:25.5/63.2/2.5, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:13.6 %,
   Mono:7.8 %, Eos:4.2 %, Albumin:3.9 g/dL, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and volume overload.
   .
   # Renal failure: Acute on chronic renal failure likely of prerenal
   etiology with approximately 30 kg excess fluid as per renal.
   - Continue CVVH, negative 400cc/hr as bp tolerates (sbp>80)
   - Start midodrine tid given moderately low sbp
   - Consider HD tomorrow
   .
   # Mechanical MV/TV/AV: INR supratherapeutic currently.
   -Restart coumadin (home dose 1mg po daily)
   -Goal INR on coumadin and argatroban [**2-23**] (both should be continued for
   2 days)
   -Monitor INR
   .
   # Atrial fibrillation: Holding nadolol given hypotension.
   .
   #RV failure: Unclear etiology. Recent exacerbation with significant
   weight gain
   -CVVH
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol was held to increase BP.
   - f/u liver recs (restart coumadin, continue argatroban, continue cvh
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-9-24**] 08:07 PM
   Tunneled (Hickman) Line - [**2115-9-24**] 08:08 PM
   Arterial Line - [**2115-9-25**] 03:37 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   13:16
   ------ Protected Section ------
   Agree with excellent MSIV note above.  Patient was seen, examined and
   discussed in interdisciplinary rounds.  Will start midodrine today for
   pressure support given aggressive diuresis with goal of transitioning
   to HD tomorrow.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 1823**], MD
   on:[**2115-9-26**] 15:25 ------

2115-09-27 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac
   cirrhosis, p/w acute on chronic renal failure and ascites.
   24 Hour Events:
   Started on Midodrine
   Overnight BPs in 80s
   Setting up for hemodialysis
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: no lightheadedness, dizziness
   Ear, Nose, Throat: not thirsty
   Cardiovascular: no chest pain
   Respiratory: no shortness of breath
   Gastrointestinal: no abd pain, N/V, D/C
   Psychiatric / Sleep: slept well
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-9-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 91) bpm
   BP: 85/44(58) {85/44(58) - 140/77(99)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   Wgt (current): 63.6 kg (admission): 74.1 kg
   Height: 64 Inch
             Total In:
                                                                  3,046 mL
                                                                  1,575 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  2,506 mL
                                                                  1,575 mL
   Blood products:
   Total out:
                                                                 10,011 mL
                                                                  3,547 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,965 mL
                                                                 -1,972 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/44/68/26/3
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Head, Ears, Nose, Throat: Normocephalic, moist mucosal membraines, JVP
   not elevated
   Cardiovascular: (Murmur: Systolic), mechanical heart sounds, split S1
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent), chronic
   skin changes
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, decreased dependent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.4 g/dL
   99 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
                             [**2115-9-26**]  08:23 AM
                             [**2115-9-26**]  08:37 AM
                             [**2115-9-26**]  04:00 PM
                             [**2115-9-26**]  04:10 PM
                             [**2115-9-26**]  09:42 PM
                             [**2115-9-26**]  09:58 PM
                             [**2115-9-27**]  03:59 AM
                             [**2115-9-27**]  04:13 AM
   WBC
   4.0
   4.4
   Hct
   27.1
   28.2
   28.4
   Plt
   70
   65
   Cr
   4.3
   3.2
   3.0
   2.3
   2.1
   TCO2
   23
   23
   27
   30
   Glucose
   91
   95
   112
   106
   99
   Other labs: PT / PTT / INR:26.7/61.2/2.7, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:70.1 %, Band:0.0 %, Lymph:15.4 %,
   Mono:10.4 %, Eos:3.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.9 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # R- sided heart failure: Unclear etiology. Recent exacerbation with
   significant weight gain.
   - Being agressively diuresed with CVVH (neg 7L yest, 12L total)
   # ESRD: Acute prerenal on chronic renal failure with approximately 30
   pounds weight gain.
   - Getting CVVH as limited by hypotension while setting up
   hemodialysis.
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol held to increase BP.
   - f/u liver recs
   .
   # Mechanical MV/TV/AV:
   - Restarted on Coumadin
   - Argatroban held, ? in CVVH or switch to citrate.
   .
   # Atrial fibrillation: Holding nadolol given hypotension and no known
   varices.
   - Restarted anticoagulation with Warfarin 1mg daily, INR 2.7
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, replete lytes PRN
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] after CVVH
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. Midodrine 5 mg PO TID  Order date: [**9-26**] @ 1126
   2. Pantoprazole 40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   4. Warfarin 1 mg PO DAILY16  Order date: [**9-26**] @ 1143
   5. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @ 2210
   6. Miconazole Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210

2115-09-27 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac
   cirrhosis, p/w acute on chronic renal failure and ascites.
   24 Hour Events:
   Started on Midodrine
   Overnight BPs in 80s
   Setting up for hemodialysis
   History obtained from Patient
   Allergies:
   History obtained from PatientAspirin
   Hives;
   Penicillins
   Anaphylaxis;
   Biaxin (Oral) (Clarithromycin)
   Hives;
   Azithromycin
   Anaphylaxis;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: no lightheadedness, dizziness
   Ear, Nose, Throat: not thirsty
   Cardiovascular: no chest pain
   Respiratory: no shortness of breath
   Gastrointestinal: no abd pain, N/V, D/C
   Psychiatric / Sleep: slept well
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-9-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 76 (76 - 91) bpm
   BP: 85/44(58) {85/44(58) - 140/77(99)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 100% on RA
   Heart rhythm: AV Paced
   Wgt (current): 63.6 kg (admission): 74.1 kg
   Height: 64 Inch
             Total In:
                                                                  3,046 mL
                                                                  1,575 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  2,506 mL
                                                                  1,575 mL
   Blood products:
   Total out:
                                                                 10,011 mL
                                                                  3,547 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,965 mL
                                                                 -1,972 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/44/68/26/3
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Head, Ears, Nose, Throat: Normocephalic, moist mucosal membraines, JVP
   not elevated
   Cardiovascular: (Murmur: Systolic), mechanical heart sounds, split S1
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent), chronic
   skin changes
   Respiratory / Chest: Clear
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, decreased dependent edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): time, place, person, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.4 g/dL
   99 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   98 mEq/L
   137 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2115-9-25**]  03:56 PM
                             [**2115-9-26**]  03:57 AM
                             [**2115-9-26**]  08:23 AM
                             [**2115-9-26**]  08:37 AM
                             [**2115-9-26**]  04:00 PM
                             [**2115-9-26**]  04:10 PM
                             [**2115-9-26**]  09:42 PM
                             [**2115-9-26**]  09:58 PM
                             [**2115-9-27**]  03:59 AM
                             [**2115-9-27**]  04:13 AM
   WBC
   4.0
   4.4
   Hct
   27.1
   28.2
   28.4
   Plt
   70
   65
   Cr
   4.3
   3.2
   3.0
   2.3
   2.1
   TCO2
   23
   23
   27
   30
   Glucose
   91
   95
   112
   106
   99
   Other labs: PT / PTT / INR:26.7/61.2/2.7, ALT / AST:[**5-5**], Alk Phos / T
   Bili:119/0.7, Differential-Neuts:70.1 %, Band:0.0 %, Lymph:15.4 %,
   Mono:10.4 %, Eos:3.9 %, Lactic Acid:1.0 mmol/L, Albumin:3.9 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   61 yo W with CRI, WPW s/p 3 mechanical valves, cardiac cirrhosis, p/w
   acute on chronic renal failure and ascites.
   .
   # R- sided heart failure: Unclear etiology. Recent exacerbation with
   significant weight gain.
   - Being agressively diuresed with CVVH (neg 7L yest, 12L total)
   # ESRD: Acute prerenal on chronic renal failure with approximately 30
   pounds weight gain.
   - Getting CVVH as limited by hypotension while setting up
   hemodialysis.
   .
   # Cirrhosis/ascites: Secondary to right heart failure.
   - No signs of SBP.
   - Consider therapeutic paracentesis, since not responsive to diuretic
   - nadolol held to increase BP.
   - f/u liver recs
   .
   # Mechanical MV/TV/AV:
   - Restarted on Coumadin
   - continue argatroban until INR [**2-23**] since it falsely elevates INR.
   .
   # Atrial fibrillation: Holding nadolol given hypotension and no known
   varices.
   - Restarted anticoagulation with Warfarin 1mg daily, INR 2.7
   .
   # Thrombocytopenia: Close to baseline, probably secondary to liver dz.
   - Avoiding heparin products for Hx of HIT
   .
   # h/o GI bleeding: Continue [**Hospital1 7**] PPI.
   .
   # Diarrhea: Resolved. C diff negative x 1
   .
   # FEN: Low sodium diet, not repleting lytes as renal taking care of
   this with CVVH.
   # PPx: Pneumoboots/Argatroban, on PPI [**Hospital1 7**]
   # Access: PIV, tunnel cath
   # Code: Full.
   # Communication: with patient and her daughter [**Name (NI) 461**] [**Name (NI) 3286**]
   [**Telephone/Fax (1) 3287**] (home) [**Telephone/Fax (1) 3288**] (cell)
   .
   # Dispo: Back to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] once ready for HD.
   Active Medications [**Known lastname 3306**],[**Known firstname 3307**]
   1. Midodrine 5 mg PO TID  Order date: [**9-26**] @ 1126
   2. Pantoprazole 40 mg PO Q12H  Order date: [**9-24**] @ 2210
   3. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**9-24**] @ 2210
   4. Warfarin 1 mg PO DAILY16  Order date: [**9-26**] @ 1143
   5. sevelamer CARBONATE 1600 mg PO TID W/MEALS  Order date: [**9-24**] @ 2210
   6. Miconazole Powder 2% 1 Appl TP TID  Order date: [**9-24**] @ 2210
   7. Systemic argatroban gtt